US07985763B2
To a stirred suspension of 4-hydroxyindole (10.0 g, 75.2 mmol) and 1,5-dibromo-pentane (26.0 g, 112.8 mmol) in N-methylpyrrolidinone (100 mL) was added potassium carbonate (16.0 g, 112.8 mmol). The resulting mixture was stirred at 90° C. for 4 hours and then quenched with water (30 mL) followed by extraction with ethyl acetate (30 mL×3). The organic layers were combined, washed with brine, and then concentrated under vacuum. The resulting residue was purified by silica gel chromotography to give 4-(5-bromo-pentyloxy)-1H-indole (14.0 g, 49.6 mmol, 66%) as a white solid.

reactant | 4-hydroxyindole | 75.2 mmol, 10.0 g | OC1=C2C=CNC2=CC=C1 | C8H7NO
reactant | 1,5-dibromo-pentane | 112.8 mmol, 26.0 g | BrCCCCCBr | C5H10Br2
reactant | potassium carbonate | 112.8 mmol, 16.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | N-methylpyrrolidinone | 100 mL | CN1C(CCC1)=O | C5H9NO
product | 4-(5-bromo-pentyloxy)-1H-indole | 49.6 mmol, 14.0 g, 66% | BrCCCCCOC1=C2C=CNC2=CC=C1 | C13H16BrNO
